US04952600
A solution of 0.4 g of (R)-1-[4-(dimethylamino)-2-butynyl]-3-hydroxy-2-pyrrolidinone, 0.6 ml of triethylamine and 0.3 ml of methane sulfonyl chloride in 10 ml of dichloromethane was stirred at 0° C. for 1 hour. Saturated aqueous sodium carbonate was added and the mixture separated. The aqueous portion was washed with dichloromethane. The organic layer and wash were combined, washed with sodium chloride solution, dried and evaporated. The residue was evaporated from 10 ml of toluene. The residual oil was purified by chromatography (silica gel), giving 0.4 g of (R)-1-[4-(dimethylamino)-2-butynyl]-3-[(methane sulfonyl)oxy]-2-pyrrolidinone as a colorless oil.

reactant | (R)-1-[4-(dimethylamino)-2-butynyl]-3-hydroxy-2-pyrrolidinone | 0.4 g | CN(CC#CCN1C([C@@H](CC1)O)=O)C | C10H16N2O2
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-1-[4-(dimethylamino)-2-butynyl]-3-[(methane sulfonyl)oxy]-2-pyrrolidinone | 0.4 g | CN(CC#CCN1C([C@@H](CC1)OS(=O)(=O)C)=O)C | C11H18N2O4S
